US08541595B2
Step 3, Example IV-3: 5-benzyl-5-(4-pyridin-3-ylphenyl)-5H-imidazo[2,1-a]isoindole
To a mixture of 5-benzyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole (30 mg), 3-pyridylboronic acid (18 mg) and [PdCl2(dppf)].CH2Cl2 (6 mg) was added THF (2 mL) followed by aqueous Na2CO3 (0.112 mL, 2 M). The reaction vessel was then sealed and heated at 150° C. under microwave irradiation for 20 minutes. The reaction mixture was then diluted with EtOAc and the organic layer was collected and concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 5-40% MeCN/water containing 0.1% TFA over 20 min at 20 mL/min) afforded the title compound as a white solid. HRMS. Found, 400.1805; calcd for (M+H)+, 400.1808. 1H NMR (500 MHz, CDCl3): δ 8.84 (d, J=1.9 Hz, 1H), 8.61 (dd, J=4.9, 1.5 Hz, 1 H), 7.86-7.84 (m, 1 H), 7.65-7.58 (m, 3H), 7.45-7.26 (m, 7H), 7.05-7.03 (m, 1H), 6.99-6.95 (m, 3H), 6.60 (d, J=7.3 Hz, 2H), 3.89-3.83 (m, 2H).

reactant | 5-benzyl-5-(4-bromophenyl)-5H-imidazo[2,1-a]isoindole | 30 mg | C(C1=CC=CC=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)Br | C23H17BrN2
reactant | 3-pyridylboronic acid | 18 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | CH2Cl2 | 6 mg | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 2 M, 0.112 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-benzyl-5-(4-pyridin-3-ylphenyl)-5H-imidazo[2,1-a]isoindole | C(C1=CC=CC=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)C2=CC=C(C=C2)C=2C=NC=CC2 | C28H21N3
